US04992589
(a) (2-β-Aminoethylamino-5-nitrophenyl hydroxyethyl sulfone)
132.85 g of 2-chloro-5-nitrophenyl hydroxyethyl sulfone are added at 65°-70° C. with stirring to 250 g of 1,2-diaminoethane in the course of 15 minutes, and the mixture is stirred at this temperature for a further 15 minutes. The reaction mixture is then allowed to cool down to room temperature with stirring and is poured onto 1 l of ice-water, and the product is isolated by filtration. This gives 139.6 g (2-β-aminoethylamino)-5-nitrophenyl hydroxyethyl sulfone having a melting point of 147° C. and a purity of >98%, which corresponds to a yield of 94.5% of theory, relative to starting 2-chloro-5-nitrophenyl hydroxyethyl sulfone.

reactant | 2-chloro-5-nitrophenyl hydroxyethyl sulfone | 132.85 g | OCCS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C8H8ClNO5S
reactant | 1,2-diaminoethane | 250 g | NCCN | C2H8N2
product | 2-β-Aminoethylamino-5-nitrophenyl hydroxyethyl sulfone | yield of 94.5% | OCCS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])NCCN | C10H15N3O5S
